*
.SUBCKT BDP32 1 2 3 
*
* housing parasitics
*
LBlead 2 22 1.63E-09 
LE 3 333 3.77E-09 
LC 1 11 4.1E-10 
LBbond 22 222 2.5E-09
CBCG 222 11 1.76E-13 
CBEG 222 333 8.6E-14 
CCEG 11 333 1.76E-13 
Q1 11 222 333 BDP32 AREA = 1 
.MODEL BDP32 PNP (
+    IS = 2.399E-13 
+    NF = 0.9886 
+    ISE = 1.502E-14 
+    NE = 1.2 
+    BF = 126 
+    IKF = 3 
+    VAF = 94.36 
+    NR = 0.988 
+    ISC = 2.127E-13 
+    NC = 1.135 
+    BR = 45.12 
+    IKR = 0.13 
+    VAR = 24 
+    RB = 15.37 
+    IRB = 0.0006455 
+    RBM = 0.06333 
+    RE = 0.17 
+    RC = 0.002 
+    XTB = 0 
+    EG = 1.11 
+    XTI = 3 
+    CJE = 4.056E-10 
+    VJE = 0.7881 
+    MJE = 0.3843 
+    TF = 1.15E-09 
+    XTF = 55 
+    VTF = 5 
+    ITF = 9 
+    PTF = 0 
+    CJC = 1.965E-10 
+    VJC = 0.3939 
+    MJC = 0.374 
+    XCJC = 1 
+    TR = 60E-9
+    CJS = 0 
+    VJS = 0.75 
+    MJS = 0.333 
+    FC = 0.78) 
.ENDS
*
