* BFG198 SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT223C DIE MODEL : BFQ195
* 1: COLLECTOR; 2: BASE; 3: EMITTER;
.SUBCKT BFG198 1 2 3
Q1 6 5 7 7 BFQ195
* SOT223C parasitic model
               Lb  4 5 1.5n 
               Le  7 8 .2n
               L1  2 4 .025n
               L2  1 6 1.19n
               L3  3 8 .6n
              Ccb  4 6 16f
              Cbe  4 8 182f
*
* PHILIPS SEMICONDUCTORS                                     Version:   1.0
* Filename:   BFQ195.PRM                                     Date: Feb 1992
*
.MODEL  BFQ195   NPN
+              IS = 1.97217E-015
+              BF = 1.50000E+002
+              NF = 9.90823E-001
+             VAF = 5.47229E+001
+             IKF = 3.00000E+001
+             ISE = 4.78220E-014
+              NE = 1.58002E+000
+              BR = 1.65412E+002
+              NR = 9.93986E-001
+             VAR = 2.35124E+000
+             IKR = 9.96750E+000
+             ISC = 3.51001E-015
+              NC = 1.12472E+000
+              RB = 5.00000E+000
+             IRB = 1.00000E-006
+             RBM = 5.00000E+000
+              RE = 3.68182E-001
+              RC = 9.37200E-001
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 3.38837E-012
+             VJE = 6.00000E-001
+             MJE = 3.02953E-001
+              TF = 1.10683E-011
+             XTF = 3.00256E+001
+             VTF = 1.64951E+000
+             ITF = 4.01991E-001
+             CJC = 1.19014E-012
+             VJC = 1.60156E-001
+             MJC = 8.94442E-002
.ENDS

